Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ male with history of hypertension on carvedilol and 
amlodipine who presents for syncope. Patient is poor historian 
as he has no memory for the event but arrives with his sons who 
were there for part of the episode. Reportedly patient was seen 
getting out of his car taking a few steps where he dropped to 
the grass outside of his ___, unknown if he had a headstrike. 
A bystander was able to help him to his feet and then took him 
into his ___ when his two sons arrived. EMS was called and 
patient had 2 episodes when he was standing to his feet when he 
became lightheaded and fell back to the couch. His sons state 
that recently he has appeared more confused, but he was 
particularly confused today. They note that he parked in the 
wrong parking lot when he arrived home, and while being 
evaluated by EMS, he would occasionally slur his speech and 
respond inappropriately to questions.  

 Patient states that he did not have water or anything to eat 
today but did have two shots of whiskey at a friend's apartment 
before heading home. He did not have convulsions or 
bowel/bladder incontinence during this episode. He did not have 
any muscular weakness, but was "wobbly" when walking with EMS. 
Patient denies any cardiac history and did not have preceding 
chest pain, palpitations, shortness of breath, nausea/vomiting. 
He has not had headaches, vision changes or fevers.  
 
Past Medical History:
 Non-ischemic cardiomyopathy (EF ___  
 NSVT  
 Hypertension  
 TIA ___ years ago)  
 Bladder carcinoma  
 Cholecystectomy  
 Gout  

 
Social History:
___
Family History:
 Patient denies significant history of cardiovascular disease. 
 
Physical Exam:
 Vitals- 97.4  PO 164 / 90 89 18 92 Ra  
 GENERAL: Alert and oriented to self, place, time. In no acute 
distress.  
 HEENT: Normocephalic, atraumatic. Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact. No 
conjunctival pallor or injection, sclera anicteric and without 
injection. Moist mucous membranes, good dentition. Oropharynx is 
clear. No inferior turbinate hypertrophy/erythema  
 NECK: Supple with no cervical lymphadenopathy.  
 CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops. 
No JVD.  
 LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields. No wheezes, rhonchi or rales. 
Resonant to percussion.  
 BACK: Hard, circular mass ~5cm in diameter at mid-level of back 
 
 ABDOMEN: Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants. Tympanic to percussion. No 
organomegaly.  
 EXTREMITIES: No clubbing, cyanosis, or edema, no sign of 
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally.  
 SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy  
 NEUROLOGIC: CN2-12 intact. ___ strength througout. Normal 
sensation. Gait deferred.  

 
Pertinent Results:
ADMISSION LABS
===================================
___ 04:00PM BLOOD WBC-6.8 RBC-4.66 Hgb-14.0 Hct-42.5 MCV-91 
MCH-30.0 MCHC-32.9 RDW-14.5 RDWSD-47.7* Plt ___
___ 04:00PM BLOOD Neuts-59.6 ___ Monos-8.7 Eos-3.8 
Baso-0.6 Im ___ AbsNeut-4.02 AbsLymp-1.82 AbsMono-0.59 
AbsEos-0.26 AbsBaso-0.04
___ 04:00PM BLOOD ___ PTT-26.8 ___
___ 04:00PM BLOOD Glucose-157* UreaN-22* Creat-1.0 Na-139 
K-4.1 Cl-102 HCO3-20* AnGap-21*
___ 04:00PM BLOOD cTropnT-<0.01

DISCHARGE LABS
=====================================
___ 11:20AM BLOOD Glucose-99 UreaN-19 Creat-1.1 Na-139 
K-3.9 Cl-103 HCO3-26 AnGap-14
___ 11:20AM BLOOD Calcium-9.1 Phos-2.8 Mg-2.0
___ 07:07AM BLOOD Ethanol-NEG

MICR0
=====================================
None

STUDIES
=====================================
 EKG (___):  
 -Normal sinus rhythm at rate 74. PR 214, QTc 476. LBBB 
unchanged from ___levation in leads V1-V4.  

 
Brief Hospital Course:
___ h/o NICM (EF 35%), NSVT, HTN, who presents after a fall with 
a question of a syncopal episode after drinking alcohol.

EKG showed unchanged LBBB (known from prior). Troponins were 
negative x2. Orthostatics were negative.Patient had a TTE which 
was repeated which showed EF 46% with no structural cause of 
syncope identified (minimal AS). CT head and CT C-spine were 
negative. Serum alcohol level negative. CBC and chemistry panels 
negative. Patient remained hemodynamically stable and was able 
to ambulate fully without need for assistance.

Discussed with Dr. ___ cardiologist. Patient was 
discharged with plan for ___ of Hearts monitoring as an 
outpatient.

TRANSITIONAL ISSUES:
- Patient should get ___ of Hearts monitor upon discharge. 
- Patient should follow up with cardiologist and PCP.

 # Contact: HCP - ___ (___)  
 # Code: Full (presumed)  

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Allopurinol ___ mg PO DAILY 
2. amLODIPine 5 mg PO DAILY 
3. Tamsulosin 0.4 mg PO QHS 
4. Carvedilol 6.25 mg PO BID 
5. BuPROPion XL (Once Daily) 150 mg PO DAILY 
6. Clopidogrel 75 mg PO DAILY 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  
2.  amLODIPine 5 mg PO DAILY  
3.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
4.  Carvedilol 6.25 mg PO BID  
5.  Clopidogrel 75 mg PO DAILY  
6.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Syncope
Fall

Secondary diagnoses:
Nonischemic cardiomyopathy (EF 35%)
NSVT
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the ___ 
because you had loss of consciousness with a fall. You came to 
the hospital where you had a CT of your head and spine which 
showed no injury. You had no evidence of a heart attack. You 
were given IV fluids and your symptoms improved. You might have 
fallen because you were dehydrated. You were also drinking 
alcohol, which could have contributed.

We talked to your cardiologist, and you should have a special 
monitoring device for your heart after you leave the hospital. 

Thank you for allowing us to participate in your care.

Sincerely,
Your ___ Team
 
Followup Instructions:
___